US04285723
A solution of 3(2-chloro-4-trifluoromethylphenoxy)benzoic acid (5 g) in glacial acetic acid (30 ml) was heated under reflux while chlorine was passed through the solution for 5 hours. The solution was left to stand for two days at room temperature and then poured into cold water (500 ml). An off-white gummy solid separated. This was extracted with ethyl acetate and the extract dried and evaporated. The brown oil remaining was dissolved in sodium bicarbonate solution and the solution extracted with ethyl acetate. The aqueous solution was acidified with hydrochloric acid. The solution was decanted from the precipitated gum, and the gum taken up in boiling hexane. The hexane solution was filtered and allowed to cool. The required 2-chloro-5(2-chloro-4-trifluoromethylphenoxy)benzoic acid was obtained (1.0 g) as crystals of melting point 103°-104°. This acid was used as starting material for compounds 7 and 8.

reactant | 3(2-chloro-4-trifluoromethylphenoxy)benzoic acid | 5 g | ClC1=C(OC=2C=C(C(=O)O)C=CC2)C=CC(=C1)C(F)(F)F | C14H8ClF3O3
reactant | chlorine | ClCl | Cl2
reactant | water | 500 ml | O | H2O
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
product | 2-chloro-5(2-chloro-4-trifluoromethylphenoxy)benzoic acid | ClC1=C(C(=O)O)C=C(C=C1)OC1=C(C=C(C=C1)C(F)(F)F)Cl | C14H7Cl2F3O3
